US05733922
Preparation of 2-(2-pyridylmethylthio)imidazolin-4-one
Initially, 1 g of 2-thiohydantoin and 2.5 g of sodium methylate were dissolved in 50 mL of methanol (MeoH), and 1.5 g of 2-chloromethylpyridine hydrochloride was added to the solution. The reaction mixture was stirred under reflux for one and a half hour and concentrated in vacuo. To the residue, there was added 50 mL of chloroform (CHCl3), and the mixture was washed with 50 mL of water. Then, the CHCL3 layer was dried over magnesium sulfate (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography [using a developing solvent consisting of CHCl3 :MeOH=50:1 (volume ratio, v/v)]. Recrystallization from diethylether gave the desired compound in the form of a needle-like crystal. The yield of this compound was 1.2 g with a yield ratio of 67.2%, and its melting point was 105°-107° C.

reactant | 2-thiohydantoin | 1 g | N1C(=S)NC(=O)C1 | C3H4N2OS
reactant | sodium methylate | 2.5 g | C[O-].[Na+]
reactant | 2-chloromethylpyridine hydrochloride | 1.5 g | Cl.ClCC1=NC=CC=C1
solvent | methanol | 50 mL | CO | CH4O
product | 2-(2-pyridylmethylthio)imidazolin-4-one | N1=C(C=CC=C1)CSC=1NCC(N1)=O | C9H9N3OS
